US04070539
Step C: 5-(1-Oxo-2-ethyl-2,6,7-trichloro-5-indanyloxymethyl)tetrazole
A solution of 5-(1-oxo-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole (2.0 g.) in acetic acid (300 ml.) is warmed to 65° C. on a steam bath and treated during a 10-minute period with a solution of chlorine (700 mg.) in acetic acid (25 ml.). The reaction mixture is heated one hour at 100° C. and the solvent is distilled at reduced pressure to a volume of 50 ml. which on treatment with water affords 0.8 g. (36%) of 5-(1-oxo-2-ethyl-2,6,7-trichloro-5-indanyloxymethyl)tetrazole which melts at 128° C. after recrystallization from ethylacetate and hexane.

reactant | 5-(1-oxo-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole | 2.0 g | O=C(C1=NN=NN1)OC=1C=C2CC(CC2=C(C1Cl)Cl)CC | C13H12Cl2N4O2
reactant | chlorine | 700 mg | ClCl | Cl2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-(1-Oxo-2-ethyl-2,6,7-trichloro-5-indanyloxymethyl)tetrazole | O=C(C1=NN=NN1)OC=1C=C2CC(CC2=C(C1Cl)Cl)(Cl)CC | C13H11Cl3N4O2
